US04360464
11 Parts of 2-benzyloxy-1,3-dibromo-propane, 30 parts of iso-propylamine and 30 parts of water were added to a stainless autoclave, and the mixture was heated at 80° C. for 2 hours with agitation. The reaction mixture was cooled and treated in the same manner as in Example 29, followed by distillation under reduced pressure. As a result, 18 parts of 3-benzyloxy-1-(iso-propyl)azetidine boiling at 104°-107° C. under 2 mm Hg were obtained.

reactant | 2-benzyloxy-1,3-dibromo-propane | C(C1=CC=CC=C1)OC(CBr)CBr | C10H12Br2O
reactant | iso-propylamine | C(C)(C)N | C3H9N
solvent | water | O | H2O
product | 3-benzyloxy-1-(iso-propyl)azetidine | C(C1=CC=CC=C1)OC1CN(C1)C(C)C | C13H19NO
